US06667303B1
Step 1: 6-Bromo-benzo[cd]indol-2(1H)-one
Benz[cd]indol-2(1H)-one (2.1 g, 12.4 mmol) was dissolved in 50 ml trichloromethane and cooled to 0° C. To this stirred and cooled solution was added dropwise bromine (0.64 ml, 12.4 mmol) within 5 minutes. The reaction was allowed to warm up to room temperature for 24 hours. The reaction mixture was then poured into water and extracted with trichloromethane. The organic layer was dried over sodium sulfate, filtered and concentrated to give 2.935 g product (95% yield).

reactant | Benz[cd]indol-2(1H)-one | 12.4 mmol, 2.1 g | N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C11H7NO
reactant | bromine | 12.4 mmol, 0.64 ml | BrBr | Br2
reactant | water | O | H2O
solvent | trichloromethane | 50 ml | ClC(Cl)Cl | CHCl3
product | 6-Bromo-benzo[cd]indol-2(1H)-one | 2.935 g, 95% yield | BrC=1C=2C3=C(C(NC3=CC1)=O)C=CC2 | C11H6BrNO
